US04089860
Preparation of 1-methyl[cyclohexyl]-3-cyclohexyl[methyl]-5-(methoxy-carbonyl-methylene)-hydantoin:
78 g of N-methyl-N'-cyclohexyl urea, 220 g of cresol and 72 g of dimethyl maleate were stirred at 185° C for one hour and then at 200° C for one hour. 15 g of methanol distilled over during this time. After fractional distillation, a main fraction boiling at 180°-185° C/0.08 Torr could be isolated. It consisted of an isomeric mixture of 1-methyl-3-cyclohexyl-hydantoin and 1-cyclohexyl-3-methylhydantoin but its exact composition could not be determined by gas chromatography.

reactant | N-methyl-N'-cyclohexyl urea | 78 g | CNC(=O)NC1CCCCC1 | C8H16N2O
reactant | cresol | 220 g | C1(=CC=CC=C1O)C | C7H8O
reactant | dimethyl maleate | 72 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | 1-methyl-3-cyclohexyl-hydantoin | CN1C(=O)N(C(=O)C1)C1CCCCC1 | C10H16N2O2
reactant | 1-cyclohexyl-3-methylhydantoin | C1(CCCCC1)N1C(=O)N(C(=O)C1)C | C10H16N2O2
product | 1-methyl[cyclohexyl]-3-cyclohexyl[methyl]-5-(methoxy-carbonyl-methylene)-hydantoin | CN1C(=O)N(C(=O)C1=C(C(=O)OC)C)C1(CCCCC1)C1CCCCC1 | C20H30N2O4
